US05502073
A mixture of 4-trifluoromethylthiotoluene (1.5 g.), N-bromosuccinimide (1.53 g.) and benzoyl peroxide (0.05 g.) in dry carbon tetrachloride (30 ml.) was refluxed, with stirring for 4 hours. The mixture was cooled and filtered. The filtrates were evaporated in vacuo and 4-trifluoromethylthiobenzyl bromide was obtained as a crystalline solid (2.5 g.).

reactant | 4-trifluoromethylthiotoluene | 1.5 g | FC(SC1=CC=C(C=C1)C)(F)F | C8H7F3S
reactant | N-bromosuccinimide | 1.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.05 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-trifluoromethylthiobenzyl bromide | FC(SC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3S
